US07732477B2
Methyl7-nitro-1-benzothiophene-2-carboxylate
Using 3.04 g (16.4 mmol) of 2-chloro-3-nitrobenzaldehyde, 0.98 g (24.6 mmol) of sodium hydride (60% pure) and 2.09 g (19.7 mmol) of methyl mercaptoacetate, 3.68 g (85% of theory) of the title compound are obtained.

reactant | 2-chloro-3-nitrobenzaldehyde | 16.4 mmol, 3.04 g | ClC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4ClNO3
reactant | sodium hydride | 24.6 mmol, 0.98 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 19.7 mmol, 2.09 g | SCC(=O)OC | C3H6O2S
product | Methyl7-nitro-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC=C2[N+](=O)[O-] | C10H7NO4S
